US09127003B2
Intermediate 19: 4-(Methylamino)-3-nitrobenzoic acid
Methyl 4-(methylamino)-3-nitrobenzoate (1.82 g, 8.66 mmol) was dissolved in a 1:1 ratio of tetrahydrofuran (THF) (41.4 mL) and water (41.4 mL). To this was added lithium hydroxide (1.817 g, 43.3 mmol) and the reaction stirred at r.t. for 16 h. The reaction mixture was cooled to 0° C. and acidified by the addition of 5M HCl (˜20 mL, until the pH reached ˜5)—a bright yellow precipitate formed, the slurry was filtered and the residue washed with distilled H2O (2×30 mL). The residue was collected and dried in vacuo at 50° C. to afford the product as a yellow solid (1.43 g, 7.29 mmol, 84% yield). This was used without further purification in the subsequent reactions.

reactant | Methyl 4-(methylamino)-3-nitrobenzoate | 8.66 mmol, 1.82 g | CNC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H10N2O4
reactant | lithium hydroxide | 43.3 mmol, 1.817 g | [OH-].[Li+]
reactant | HCl | 5M | Cl | ClH
solvent | tetrahydrofuran | 41.4 mL | O1CCCC1 | C4H8O
solvent | water | 41.4 mL | O | H2O
product | 4-(Methylamino)-3-nitrobenzoic acid | 7.29 mmol, 1.43 g, 84% yield | CNC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H8N2O4
